US05708033
A mixture of 4-chloro-2-fluorophenol (25.0 g, 0.17 mol, Aldrich) and pyridine (13.5 g, 0.17 mol, Aldrich) in dichloromethane (120 ml) was added dropwise to a solution of trifluoromethanesulphonic anhydride (50.0 g, 0.18 mol, Aldrich) in dichloromethane (120 ml) at ice bath temperature. After stirring at ambient temperature for 60 h, the reaction mixture was washed with water and dried over sodium sulphate, filtered, and concentrated in vacuo to give 45 g of crude 4-chloro-2-fluorophenyl trifluoromethanesulphonate. Chromatography on silica gel with hexanes as eluent gave 32.2 g (68%) of 4-chloro-2-fluorophenyltrifluoromethane sulphonate as a colourless oil: NMR (CDCl3); δ 7.20-7.33 (m, 3H, Ar).

reactant | 4-chloro-2-fluorophenol | 0.17 mol, 25.0 g | ClC1=CC(=C(C=C1)O)F | C6H4ClFO
reactant | pyridine | 0.17 mol, 13.5 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulphonic anhydride | 0.18 mol, 50.0 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | 4-chloro-2-fluorophenyl trifluoromethanesulphonate | 45 g | FC(S(=O)(=O)OC1=C(C=C(C=C1)Cl)F)(F)F | C7H3ClF4O3S
